US07795262B2
Step 3. Preparation of 2-morpholin-4-yl-5,6,7,8-tetrahydropyrido[3,4-b]pyrazine
Ethyl 2-morpholin-4-yl-7,8-dihydropyrido[3,4-b]pyrazine-6(5H)-carboxylate (105 mg, 0.359 mmol) is dissolved in MeOH (5 mL) and H2O (5 mL). KOH (1.00 g, 17.9 mmol) is added, and the reaction mixture is stirred overnight at 50° C. The mixture is cooled and partitioned between brine (50 mL) and DCM (50 mL). The mixture is extracted with DCM (2×50 mL). The combined organic extracts are dried and evaporated to yield the title compound. MS (+VE) m/z 221.21 (M++1).

reactant | Ethyl 2-morpholin-4-yl-7,8-dihydropyrido[3,4-b]pyrazine-6(5H)-carboxylate | 0.359 mmol, 105 mg | N1(CCOCC1)C=1N=C2C(=NC1)CN(CC2)C(=O)OCC | C14H20N4O3
reactant | KOH | 17.9 mmol, 1.00 g | [OH-].[K+]
solvent | MeOH | 5 mL | CO | CH4O
solvent | H2O | 5 mL | O | H2O
product | 2-morpholin-4-yl-5,6,7,8-tetrahydropyrido[3,4-b]pyrazine | N1(CCOCC1)C=1N=C2C(=NC1)CNCC2 | C11H16N4O
